data/mechanism_extracts/GreenChem/10.1039_d3gc04109c.json
{"doi": "10.1039_d3gc04109c", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Photoelectrocatalytic nickel-catalyzed three-component carboacylation/silanoylation of alkenes using acyl chlorides and unactivated C(sp3)-H donors or hydrosilanes via Fe-mediated LMCT chlorine radical HAT", "mechanism_family": ["photoredox_combined", "radical_polar_crossover", "mediator_anodic", "electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic oxidation regenerates [FeIIICl4]- from [FeIICl3]- (reduced after LMCT/HAT); cathodic reduction of Ni(II) acyl intermediate F to Ni(I) species G enables turnover of the nickel cycle", "key_intermediates": [{"name": "[FeIIICl4]- (A)", "smiles": "[Cl-].[Cl-].[Cl-].[Cl-].[Fe+3]", "role": "resting_state"}, {"name": "photoexcited *[FeIIICl4]- (B)", "smiles": null, "role": "reactive"}, {"name": "[FeIICl3]- (C) after LMCT loss of Cl radical", "smiles": null, "role": "transient"}, {"name": "chlorine radical (Cl•)", "smiles": "[Cl]", "role": "reactive"}, {"name": "cyclohexyl / C(sp3) carbon-centered radical (D)", "smiles": "[CH]1CCCCC1", "role": "reactive"}, {"name": "Ni(II)-acyl-Cl complex (F)", "smiles": null, "role": "transient"}, {"name": "Ni(I)-acyl complex (G)", "smiles": null, "role": "reactive"}, {"name": "secondary alkyl radical after radical addition to acrylate (E)", "smiles": null, "role": "reactive"}, {"name": "Ni(III) alkyl-acyl intermediate (H)", "smiles": null, "role": "transient"}, {"name": "Ni(I) catalyst (I)", "smiles": null, "role": "resting_state"}, {"name": "TEMPO-cyclohexyl adduct (47)", "smiles": "O(C1CCCCC1)N1C(C)(C)CCCC1(C)C", "role": "off_pathway"}], "electron_flow": "Visible light excites [FeIIICl4]- which undergoes LMCT to release Cl• and [FeIICl3]-; Cl• abstracts a C(sp3)-H (or Si-H) to give a carbon (or silyl) radical D, while anodic oxidation of [FeIICl3]- with Cl- regenerates [FeIIICl4]-. In parallel, Ni(I) oxidatively adds to acyl chloride to give Ni(III)-acyl F, which is cathodically reduced to Ni(II)-acyl G; D adds to the alkene to give secondary radical E, which is captured by G to form Ni(III) alkyl-acyl H that reductively eliminates the ketone and regenerates Ni(I).", "rate_determining_step": "Not the C-H cleavage step (KIE kH/kD = 1.15); turnover-limiting step not explicitly assigned", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction fully suppressed with 3 equiv TEMPO; cyclohexyl-TEMPO adduct 47 detected by GCMS, supporting cyclohexyl radical intermediate"}, {"name": "TBABClO4 (replace LiCl electrolyte)", "smiles": "[O-]Cl(=O)(=O)=O.CCCC[N+](CCCC)(CCCC)CCCC", "purpose": "other", "observation": "No product formed, showing LiCl/chloride is essential for in situ [FeCl4]- formation"}, {"name": "Cyclohexyl chloride (in place of cyclohexane)", "smiles": "ClC1CCCCC1", "purpose": "intermediate_trap", "observation": "No target product, ruling out alkyl chloride as a key intermediate"}, {"name": "Ni(COD)2", "smiles": null, "purpose": "other", "observation": "Only trace product, suggesting Ni(0) is not in the main catalytic cycle"}, {"name": "Preformed Ni(II) complex 48 (NiBr2·dtbbpy analog)", "smiles": null, "purpose": "stoichiometric_intermediate", "observation": "Stoichiometric: no product without photocatalyst; catalytic (10 mol%) gave 55% yield, supporting Ni(II) complex as a competent catalyst"}, {"name": "[D]-cyclohexane (d12-cyclohexane)", "smiles": "[2H]C1([2H])C([2H])([2H])C([2H])([2H])C([2H])([2H])C([2H])([2H])C1([2H])[2H]", "purpose": "KIE", "observation": "Parallel KIE kH/kD = 1.15, indicating C-H cleavage is not turnover-determining"}], "evidence_types_used": ["KIE", "intermediate_trap_TEMPO", "stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Dual catalytic cycle (Fe photoredox/LMCT + Ni cross-coupling) coupled to electrochemistry: anode regenerates Fe(III), cathode reduces Ni(III) to Ni(II)/Ni(I). CV data: Ni(II)/Ni(I) at -1.38 V and Ni(I)/Ni(0) at -1.88 V vs Fc/Fc+; Fe(II)/Fe(III) at -0.09 V vs Fc/Fc+. Hydrosilane variant proceeds analogously with Si-H HAT by Cl• to give silyl radical, then addition to alkene and Ni-mediated acylation."}
